** sch_path: CDR4176-main/schematic/xschem/MUX_2_1/MUX_2_1.sch
**.subckt MUX_2_1 VDD VINA VOUT VS VINB VSS
*.opin VOUT
*.ipin VINA
*.ipin VINB
*.ipin VS
*.iopin VDD
*.iopin VSS
x1 VOUT net1 VS net2 VDD VSS tg_custom
x2 VOUT VS net1 net3 VDD VSS tg_custom
x3 VDD net1 VS VSS inv
x4 VDD net2 VINA VSS inv_PI
x5 VDD net3 VINB VSS inv_PI
x6[3] VOUT VSS VDD net2 VDD VSS tg_custom
x6[2] VOUT VSS VDD net2 VDD VSS tg_custom
x6[1] VOUT VSS VDD net2 VDD VSS tg_custom
x6[0] VOUT VSS VDD net2 VDD VSS tg_custom
x7[3] VOUT VSS VDD net3 VDD VSS tg_custom
x7[2] VOUT VSS VDD net3 VDD VSS tg_custom
x7[1] VOUT VSS VDD net3 VDD VSS tg_custom
x7[0] VOUT VSS VDD net3 VDD VSS tg_custom
**.ends

* expanding   symbol:  CDR4176-main/schematic/xschem/tg_custom/tg_custom.sym # of pins=6
** sym_path: CDR4176-main/schematic/xschem/tg_custom/tg_custom.sym
** sch_path: CDR4176-main/schematic/xschem/tg_custom/tg_custom.sch
.subckt tg_custom VOUT VSN VSP VIN VBP VBN
*.iopin VIN
*.iopin VSN
*.iopin VOUT
*.iopin VSP
*.iopin VBN
*.iopin VBP
XM1 VOUT VSN VIN VBN sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
XM2 VOUT VSP VIN VBP sg13_lv_pmos w=0.3u l=0.13u ng=2 m=1
.ends


* expanding   symbol:  CDR4176-main/schematic/xschem/inv_PI/inv_PI.sym # of pins=4
** sym_path: CDR4176-main/schematic/xschem/inv_PI/inv_PI.sym
** sch_path: CDR4176-main/schematic/xschem/inv_PI/inv_PI.sch
.subckt inv_PI VDD VOUT VIN VSS
*.iopin VDD
*.iopin VSS
*.opin VOUT
*.ipin VIN
XM2 VOUT VIN VDD VDD sg13_lv_pmos w=0.45u l=0.13u ng=3 m=1
XM1 VOUT VIN VSS VSS sg13_lv_nmos w=0.3u l=0.13u ng=2 m=1
.ends

.end
